US06441187B1
Production of (−)-10,10-dimethyl-3-thia-4-azatricyclo[5.2.1.01,5]dec-4-ene 3,3-dioxide (camphorsulfonimine)
N,N-Dimethylformamide (230 g) and (1S)-(+)-10-camphorsulfonic acid (190 kg, 818 mol) were added to toluene (190 L), and thionyl chloride (116.8 kg, 982 mol) was added in a thin stream at 70° C.-80° C. over 2 h, and the mixture was stirred at the same temperature for 2 h. The obtained solution of camphorsulfonyl chloride in toluene was added dropwise at −10° C. to 25° C. over 3 h to a mixture of 28 wt % aqueous ammonia (248.7 kg, 4.1 kmol) and toluene (277 L), which mixture had been separately prepared and cooled to −10° C. to −5° C. The container of acid chloride was washed with toluene (29 L) and the washing was added to the reaction mixture, which was followed by stirring at 10° C.-25° C. for 2 h. The reaction mixture was heated to 80° C. over 85 min and stirred at 80° C.-83.3° C. for 3 h. The amount of the ammonia gas generated was 39 m3. The reaction mixture was cooled to 60° C. over 20 min and aged at 54° C.-60° C. for 15 min. The reaction mixture was cooled to 20° C. over 1 h and stirred at 15° C.-20° C. for 40 min. The reaction mixture was filtered at 15° C. and washed successively with toluene (57 L) and water (380 kg) to give wet crystals (177.1 kg). The crystals were partially dried and analyzed. As a result, the crystals contained the title compound in an amount of 144.7 kg (yield 83%).

reactant | (1S)-(+)-10-camphorsulfonic acid | 818 mol, 190 kg | [C@]12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
reactant | thionyl chloride | 982 mol, 116.8 kg | S(=O)(Cl)Cl | Cl2OS
reactant | ammonia | 4.1 kmol, 248.7 kg | N | H3N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | N,N-Dimethylformamide | 230 g | CN(C=O)C | C3H7NO
solvent | toluene | 277 L | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 190 L | C1(=CC=CC=C1)C | C7H8
product | (−)-10,10-dimethyl-3-thia-4-azatricyclo[5.2.1.01,5]dec-4-ene 3,3-dioxide | 177.1 kg, yield 83% | CC1(C23CS(N=C2CC1CC3)(=O)=O)C | C10H15NO2S
